.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-301
* Inductance = 300nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-301_freq port1 port2 PARAMS: Cpar=2.58pF Ind=0.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=1000
+ R2=0.04
+ C= {Cpar}
+ K1=0.00005
+ K2=0.145
+ K3= {Ind}
+ K4=0.007
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=305.9543188
.ends LPO3310-301_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-301
* Inductance = 300nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-301_imp port1 port2 PARAMS: Cpar=2.135pF Ind=0.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=1000
+ R2=0.04
+ C= {Cpar}
+ K1=0.00005
+ K2=0.145
+ K3= {Ind}
+ K4=0.007
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=305.9543188
.ends LPO3310-301_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-471
* Inductance = 470nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-471_freq port1 port2 PARAMS: Cpar=0.811pF Ind=0.47uH
X1 port1 port2 Model1A PARAMS:
+ R1=840
+ R2=0.042
+ C= {Cpar}
+ K1=0.0002
+ K2=0.116
+ K3= {Ind}
+ K4=0.011
+ K5=0.0000085
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=663.7440998
.ends LPO3310-471_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-471
* Inductance = 470nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-471_imp port1 port2 PARAMS: Cpar=0.665pF Ind=0.47uH
X1 port1 port2 Model1D PARAMS:
+ R1=840
+ R2=0.042
+ C= {Cpar}
+ K1=0.0002
+ K2=0.116
+ K3= {Ind}
+ K4=0.011
+ K5=0.0000085
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=663.7440998
.ends LPO3310-471_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-701
* Inductance = 700nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-701_freq port1 port2 PARAMS: Cpar=0.516pF Ind=0.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=400
+ R2=0.068
+ C= {Cpar}
+ K1=0.00022
+ K2=0.117
+ K3= {Ind}
+ K4=0.01
+ K5=0.000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1232.203568
.ends LPO3310-701_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-701
* Inductance = 700nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-701_imp port1 port2 PARAMS: Cpar=0.463pF Ind=0.7uH
X1 port1 port2 Model1D PARAMS:
+ R1=400
+ R2=0.068
+ C= {Cpar}
+ K1=0.00022
+ K2=0.117
+ K3= {Ind}
+ K4=0.01
+ K5=0.000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1232.203568
.ends LPO3310-701_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-102_freq port1 port2 PARAMS: Cpar=0.7pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=260
+ R2=0.076
+ C= {Cpar}
+ K1=0.00008
+ K2=0.194
+ K3= {Ind}
+ K4=0.025
+ K5=0.0000095
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1754.229962
.ends LPO3310-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-102_imp port1 port2 PARAMS: Cpar=0.569pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=260
+ R2=0.076
+ C= {Cpar}
+ K1=0.00008
+ K2=0.194
+ K3= {Ind}
+ K4=0.025
+ K5=0.0000095
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1754.229962
.ends LPO3310-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-152_freq port1 port2 PARAMS: Cpar=0.633pF Ind=1.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=210
+ R2=0.12
+ C= {Cpar}
+ K1=0.00014
+ K2=0.32
+ K3= {Ind}
+ K4=0.038
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2939.440669
.ends LPO3310-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-152_imp port1 port2 PARAMS: Cpar=0.515pF Ind=1.5uH
X1 port1 port2 Model1D PARAMS:
+ R1=210
+ R2=0.12
+ C= {Cpar}
+ K1=0.00014
+ K2=0.32
+ K3= {Ind}
+ K4=0.038
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2939.440669
.ends LPO3310-152_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-222_freq port1 port2 PARAMS: Cpar=0.808pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=300
+ R2=0.15
+ C= {Cpar}
+ K1=0.000001
+ K2=0.53
+ K3= {Ind}
+ K4=0.058
+ K5=0.00000985
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3383.911304
.ends LPO3310-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-222_imp port1 port2 PARAMS: Cpar=0.657pF Ind=2.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=300
+ R2=0.15
+ C= {Cpar}
+ K1=0.000001
+ K2=0.53
+ K3= {Ind}
+ K4=0.058
+ K5=0.00000985
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3383.911304
.ends LPO3310-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-332_freq port1 port2 PARAMS: Cpar=0.875pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=150
+ R2=0.2
+ C= {Cpar}
+ K1=0.000001
+ K2=0.92
+ K3= {Ind}
+ K4=0.094
+ K5=0.00000995
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6428.648553
.ends LPO3310-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-332_imp port1 port2 PARAMS: Cpar=0.705pF Ind=3.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=150
+ R2=0.2
+ C= {Cpar}
+ K1=0.000001
+ K2=0.92
+ K3= {Ind}
+ K4=0.094
+ K5=0.00000995
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6428.648553
.ends LPO3310-332_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-472_freq port1 port2 PARAMS: Cpar=1.04pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=55
+ R2=0.27
+ C= {Cpar}
+ K1=0.000165
+ K2=1.15
+ K3= {Ind}
+ K4=0.137
+ K5=0.0000099
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8876.666945
.ends LPO3310-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-472_imp port1 port2 PARAMS: Cpar=0.841pF Ind=4.7uH
X1 port1 port2 Model1D PARAMS:
+ R1=55
+ R2=0.27
+ C= {Cpar}
+ K1=0.000165
+ K2=1.15
+ K3= {Ind}
+ K4=0.137
+ K5=0.0000099
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8876.666945
.ends LPO3310-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-682_freq port1 port2 PARAMS: Cpar=0.9pF Ind=6.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=75
+ R2=0.36
+ C= {Cpar}
+ K1=0.000525
+ K2=1.79
+ K3= {Ind}
+ K4=0.166
+ K5=0.00000974
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12625.4054
.ends LPO3310-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-682_imp port1 port2 PARAMS: Cpar=0.759pF Ind=6.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=75
+ R2=0.36
+ C= {Cpar}
+ K1=0.000525
+ K2=1.79
+ K3= {Ind}
+ K4=0.166
+ K5=0.00000974
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12625.4054
.ends LPO3310-682_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-103_freq port1 port2 PARAMS: Cpar=1.05pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=125
+ R2=0.52
+ C= {Cpar}
+ K1=0.000001
+ K2=2.4
+ K3= {Ind}
+ K4=0.214
+ K5=0.00000986
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13795.40408
.ends LPO3310-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-103_imp port1 port2 PARAMS: Cpar=0.911pF Ind=10uH
X1 port1 port2 Model1D PARAMS:
+ R1=125
+ R2=0.52
+ C= {Cpar}
+ K1=0.000001
+ K2=2.4
+ K3= {Ind}
+ K4=0.214
+ K5=0.00000986
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13795.40408
.ends LPO3310-103_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-153_freq port1 port2 PARAMS: Cpar=1.07pF Ind=15uH
X1 port1 port2 Model1A PARAMS:
+ R1=450
+ R2=0.8
+ C= {Cpar}
+ K1=0.000001
+ K2=1.47
+ K3= {Ind}
+ K4=0.066
+ K5=0.0000091
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7156.28143
.ends LPO3310-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-153_imp port1 port2 PARAMS: Cpar=1.042pF Ind=15uH
X1 port1 port2 Model1D PARAMS:
+ R1=450
+ R2=0.8
+ C= {Cpar}
+ K1=0.000001
+ K2=1.47
+ K3= {Ind}
+ K4=0.066
+ K5=0.0000091
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7156.28143
.ends LPO3310-153_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-223_freq port1 port2 PARAMS: Cpar=1.2pF Ind=22uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=1.2
+ C= {Cpar}
+ K1=0.000001
+ K2=4.78
+ K3= {Ind}
+ K4=0.285
+ K5=0.00000994
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=25685.69746
.ends LPO3310-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-223_imp port1 port2 PARAMS: Cpar=1.111pF Ind=22uH
X1 port1 port2 Model1D PARAMS:
+ R1=35
+ R2=1.2
+ C= {Cpar}
+ K1=0.000001
+ K2=4.78
+ K3= {Ind}
+ K4=0.285
+ K5=0.00000994
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=25685.69746
.ends LPO3310-223_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-333_freq port1 port2 PARAMS: Cpar=1.07pF Ind=33uH
X1 port1 port2 Model1A PARAMS:
+ R1=1
+ R2=1.78
+ C= {Cpar}
+ K1=0.000001
+ K2=6.05
+ K3= {Ind}
+ K4=0.24
+ K5=0.00000985
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=31604.0626
.ends LPO3310-333_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-333_imp port1 port2 PARAMS: Cpar=1.027pF Ind=33uH
X1 port1 port2 Model1D PARAMS:
+ R1=1
+ R2=1.78
+ C= {Cpar}
+ K1=0.000001
+ K2=6.05
+ K3= {Ind}
+ K4=0.24
+ K5=0.00000985
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=31604.0626
.ends LPO3310-333_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-473
* Inductance = 47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3310-473_freq port1 port2 PARAMS: Cpar=1.23pF Ind=47uH
X1 port1 port2 Model1A PARAMS:
+ R1=235
+ R2=2.15
+ C= {Cpar}
+ K1=0.000001
+ K2=5.85
+ K3= {Ind}
+ K4=0.161
+ K5=0.00000925
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=23018.51582
.ends LPO3310-473_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3310-473
* Inductance = 47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3310-473_imp port1 port2 PARAMS: Cpar=1.208pF Ind=47uH
X1 port1 port2 Model1D PARAMS:
+ R1=235
+ R2=2.15
+ C= {Cpar}
+ K1=0.000001
+ K2=5.85
+ K3= {Ind}
+ K4=0.161
+ K5=0.00000925
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=23018.51582
.ends LPO3310-473_imp

